US09315462B2
Step 1: Synthesis of (5-methoxy-2-nitrophenyl)methanol
To a solution of 5-methoxy-2-nitrobenzoic acid (20.0 g, 0.102 mol) in anhydrous THF (200 mL) was added SOCl2 (20 mL), the mixture was refluxed for 4 hours. The solvent was removed under reduced pressure and the residue was dissolved in anhydrous THF (100 mL). The solution was added dropwise to a suspension of NaBH4 (7.70 g, 0.202 mol) in anhydrous THF (100 mL) and DMF (140 mL) at 0° C. over a period of 30 minutes. The mixture was stirred at 30° C. for 3 hours, then quenched with ice-water (100 mL) and basified by 2M NaOH to pH 8. An EtOAc workup was followed by removal of solvent in vacuo and purification by column chromatography (PE/EtOAc=1/1) to give the product (12.0 g, yield 66%).

reactant | 5-methoxy-2-nitrobenzoic acid | 0.102 mol, 20.0 g | COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO5
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
reactant | NaBH4 | 0.202 mol, 7.70 g | [BH4-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
product | (5-methoxy-2-nitrophenyl)methanol | 12.0 g, yield 66% | COC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C8H9NO4
